US05977141
(b) (±)-2-(4-Fluoro-benzenesulfonylamino)-5-phenyl pentanoic acid
A mixture of (±)-2-amino-5-phenyl-pentanoic acid (0.188 g, 0.000973 mol), 4-fluoro-benzenesulfonyl chloride (0.189 g, 0.000971 mol), and sodium carbonate (0.208 g, 0.00196 mol) in water (4 mL) was stirred at room temperature for 4 days. The mixture was heated briefly on a steam bath to give a cloudy solution. The solution was gravity filtered hot, and the filtrate allowed to cool. The resulting solid that crystallized was filtered off, washed with water, and dried in vacuo; yield 0.131 g, (38%). 1H-NMR (DMSO-d6): δ 7.81 (m, 2H), 7.37 (t, 2H), 7.25 (t, 2H), 7.14 (m, 4H), 3.34 (br s, H2), 3.04 (t, 1H), 2.46 (m, 2H), 1.6-1.4 (m, 4H).

reactant | (±)-2-amino-5-phenyl-pentanoic acid | 0.000973 mol, 0.188 g | NC(C(=O)O)CCCC1=CC=CC=C1 | C11H15NO2
reactant | 4-fluoro-benzenesulfonyl chloride | 0.000971 mol, 0.189 g | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | sodium carbonate | 0.00196 mol, 0.208 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 4 mL | O | H2O
product | (±)-2-(4-Fluoro-benzenesulfonylamino)-5-phenyl pentanoic acid | FC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)O)CCCC1=CC=CC=C1 | C17H18FNO4S
